US09108939B2
1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)(methyl)amino)phenyl)-3-(tetrahydro-2H-pyran-4-yl)urea
A solution of 2-(4-((4-((4-aminophenyl)(methyl)amino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.303 mmol, 140 mg) and 4-nitrophenyl carbonochloridate (0.303 mmol, 61.2 mg) in dichloromethane (1 mL) was stirred at room temperature for 30 minutes. Tetrahydro-2H-pyran-4-amine (0.607 mmol, 61.4 mg) was added followed by triethylamine (0.910 mmol, 0.127 mL, 92 mg) and the reaction stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane/saturated sodium bicarbonate solution and filtered through a hydrophobic frit. The organic layer was concentrated and the residue was purified by silica column chromatography (eluent: dichloromethane to 4% methanol in dichloromethane) to give the title compound (74.2 mg). MS (ESI) m/z 589.2 [M+H]+

reactant | 2-(4-((4-((4-aminophenyl)(methyl)amino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.303 mmol, 140 mg | NC1=CC=C(C=C1)N(C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C | C22H25F6N3O
reactant | 4-nitrophenyl carbonochloridate | 0.303 mmol, 61.2 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Tetrahydro-2H-pyran-4-amine | 0.607 mmol, 61.4 mg | O1CCC(CC1)N | C5H11NO
reactant | triethylamine | 0.910 mmol, 0.127 mL, 92 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)(methyl)amino)phenyl)-3-(tetrahydro-2H-pyran-4-yl)urea | 74.2 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)N(C2=CC=C(C=C2)NC(=O)NC2CCOCC2)C)C=C1)(F)F | C28H34F6N4O3
